US08293768B2
Synthesis of 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
To a solution of 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)thiazole-5-carboxylic acid (0.10 g, 0.37 mmol) in anhydrous N,N-dimethylformamide (10 mL) was added N,N-diisopropylethylamine (0.17 mL, 1.34 mmol), followed by the addition of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.11 g, 0.59 mmol). The reaction was stirred at ambient temperature for 0.5 hours. 1-Hydroxybenzotriazole (0.07 g, 0.52 mmol) was added, followed by the addition of pyridin-3-ylmethanamine (0.06 g, 0.56 mmol). The reaction mixture was stirred at ambient temperature for 18 hours. The solvent was concentrated in vacuo. The residue was diluted with dichloromethane (150 mL), washed with water (100 mL) and brine (50 mL). The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was crystallized in dichloromethane and hexane to yield the title compound as a colorless solid in 40% yield (0.065 g): mp 190-192° C. (dichloromethane/hexanes); 1H NMR (300 MHz, DMSO-d6) δ 8.98 (t, J=5.8 Hz 1H), 8.49 (m, 1H), 8.43-8.39 (m, 1H), 7.98 (s, 1H), 7.68-7.65 (m, 1H), 7.34-7.30 (m, 1H), 4.40 (d, J=5.8 Hz, 2H), 4.01-3.95 (m, 2H), 3.65-3.59 (m, 2H), 3.07 (d, J=7.1 Hz, 2H), 1.01-0.85 (m, 1H), 0.53-0.39 (m, 2H), 0.21-0.16 (m, 2H); 13C NMR (75 MHz, DMSO-d6) δ 161.5, 161.3, 155.1, 149.3, 148.6, 140.1, 135.7, 135.3, 127.1, 123.9, 48.2, 42.5, 42.3, 9.31, 3.63; MS (ES+) m/z 358.2 (M+1).

reactant | 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)thiazole-5-carboxylic acid | 0.37 mmol, 0.10 g | C1(CC1)CN1C(N(CC1)C=1SC(=CN1)C(=O)O)=O | C11H13N3O3S
reactant | N,N-diisopropylethylamine | 1.34 mmol, 0.17 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.59 mmol, 0.11 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-Hydroxybenzotriazole | 0.52 mmol, 0.07 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | pyridin-3-ylmethanamine | 0.56 mmol, 0.06 g | N1=CC(=CC=C1)CN | C6H8N2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 40% yield | C1(CC1)CN1C(N(CC1)C=1SC(=CN1)C(=O)NCC=1C=NC=CC1)=O | C17H19N5O2S
